US06927222B2
i) (2-Cyclopenten-1-yloxy)(triisopropyl)silane
A solution of 2-cyclopentenol (K. Alder, F. H. Flock, Chem. Ber. 1956, 89, 1732.) (2.31 g, 27.5 mmol), (triisopropyl)chlorsilane (5.30 g, 5.9 mL, 27.5 mmol), imidazole (2.06 g, 30.2 mmol) in DMF (50 mL) was stirred at room temperature for 3h and for an additional hour at 50° C. Then the solution was diluted with ethylacetate, washed 4 times with water and dried over sodium sulfate. Evaporation of the solvent yielded in 6.32 g (96%) of the silylether 513/13 as a colourless liquid. No major impurities were visible in the 1H-NMR-spectrum.

reactant | 2-cyclopentenol | 27.5 mmol, 2.31 g | C1(C=CCC1)O | C5H8O
reactant | (triisopropyl)chlorsilane | 27.5 mmol, 5.9 mL, 5.30 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | 30.2 mmol, 2.06 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (2-Cyclopenten-1-yloxy)(triisopropyl)silane | C1(C=CCC1)O[Si](C(C)C)(C(C)C)C(C)C | C14H28OSi
